US07547691B2
(B). Preparation of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid amide tri-hydrochloride
Using the method of Preparation C in 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide tri-hydrochloride, the title compound is synthesized from 2-{5-chloro-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid [bis-(4-methoxyphenyl)-methyl]-amide and isolated as a yellow solid. ES+(m/z) 445 (35Cl) and 447 (37Cl) [M+H].

reactant | 2-{5-chloro-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid [bis-(4-methoxyphenyl)-methyl]-amide | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C)C1 | C36H39ClN6O3S
solvent | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide tri-hydrochloride | Cl.Cl.Cl.ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
product | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid amide tri-hydrochloride | Cl.Cl.Cl.ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=C(C=C2)C(=O)N | InChI=1S/C21H25ClN6OS.3ClH/c1-27-7-9-28(10-8-27)6-2-5-24-21-25-13-16(22)19(26-21)18-11-14-3-4-15(20(23)29)12-17(14)30-18;;;/h3-4,11-13H,2,5-10H2,1H3,(H2,23,29)(H,24,25,26);3*1H
